US07338958B2
zj) Production of (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide
A solution of 8.70 g (32.0 mmol) of (RS)-N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide in 650 ml of THF is slowly mixed at room temperature with 435 ml of a 10% solution of Ti(III)Cl in approximately 10% hydrochloric acid (Aldrich). The batch is stirred for 4 hours at room temperature and then cooled to 0° C. 450 ml of a 32% NaOH solution is added in drops. In this case, the reaction mixture is now diluted by the addition of water and ethyl acetate. It is mixed with 500 ml of ethyl acetate, and the organic phase is separated. The pulpy, aqueous phase is extracted from ethyl acetate. The combined organic phases are washed with dilute NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. 8.05 g (about 32.0 mmol) of the product is obtained, and said product is used without further purification.

reactant | (RS)-N-(ethoxycarbonyl)-S-methyl-S-(4-nitrophenyl)sulfoximide | 32.0 mmol, 8.70 g | C(C)OC(=O)N=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H12N2O5S
reactant | NaOH | [OH-].[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 650 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | (RS)-S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl sulfoximide | about 32.0 mmol, 8.05 g | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
